US07122666B2
6(v)′ (2R,8aS)-2-Phenyl-1,2,3,5,6,7,8,8a-octahydroindolizin-7-one
In a similar manner to that described in Preparative Example 1(iii)′ above, a reaction was conducted, using (2S,4R)-1-benzyloxycarbonyl-2-(3-ethoxycarbonyl-2-oxopropyl)-4-phenylpyrrolidine [obtained as described in Preparative Example 6(iv)′ above] instead of (2S,4R)-1-benzyloxycarbonyl-2-(3-ethoxycarbonyl-2-oxopropyl)-4-methoxypyrrolidine, to give the title compound as a pale yellow oil (yield: 27%).

reactant | (2S,4R)-1-benzyloxycarbonyl-2-(3-ethoxycarbonyl-2-oxopropyl)-4-phenylpyrrolidine | C(C1=CC=CC=C1)OC(=O)N1[C@@H](C[C@@H](C1)C1=CC=CC=C1)CC(CC(=O)OCC)=O | C24H27NO5
reactant | (2S,4R)-1-benzyloxycarbonyl-2-(3-ethoxycarbonyl-2-oxopropyl)-4-methoxypyrrolidine | C(C1=CC=CC=C1)OC(=O)N1[C@@H](C[C@H](C1)OC)CC(CC(=O)OCC)=O | C19H25NO6
product | (2R,8aS)-2-Phenyl-1,2,3,5,6,7,8,8a-octahydroindolizin-7-one | yield: 27% | C1(=CC=CC=C1)[C@H]1C[C@H]2CC(CCN2C1)=O | C14H17NO
